US05712300
Preparation of N-Benzyloxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
CDI (153 mg, 0.945 mmol) is added to a mixture of 3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid (300 mg, 0.945 mmol) and CH2Cl2 (7.5 mL) at room temperature. Afar stirring at room temperature for 1 hour, O-benzylhydroxylamine hydrochloride (181 mg, 1.13 mmol) and 4-methylmorpholine (124 μL, 1.13 mmol) are added to the solution. The mixture is allowed to stir overnight at room temperature. Basic workup (CH2Cl2, NaHCO3, MgSO4) and purification by column chromatography (1.5% MeOH/CHCl3) affordes 70 mg (18%) of the title compound as a white solid (mp 115°-117° C.).

reactant | CDI | 0.945 mmol, 153 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid | 0.945 mmol, 300 mg | CC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(=O)O)C | C18H23NO4
reactant | O-benzylhydroxylamine hydrochloride | 1.13 mmol, 181 mg | Cl.C(C1=CC=CC=C1)ON
reactant | 4-methylmorpholine | 1.13 mmol, 124 μL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
product | N-Benzyloxy-3-(2-methylpropyl)-2,5-dioxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 70 mg, 18% | C(C1=CC=CC=C1)ONC(CC1(C(N(C(C1)=O)CCC1=CC=CC=C1)=O)CC(C)C)=O | C25H30N2O4
